US08809369B2
The mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinoline (150.0 mg, 0.33 mmol), copper(I) iodide (20.0 mg, 0.1 mmol), piperazine (283.4 mg, 3.3 mmol), N,N-dimethylglycine hydrochloride (34.0 mg, 0.24 mmol) and potassium carbonate (110.0 mg, 1.0 mmol) in dimethyl sulfoxide (2.0 mL). was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 4,4-dimethyl-6-(morpholine-4-sulfonyl)-2-(3-piperazin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline (51.1 mg, 33.0%) as a white solid: MS (ESI) M+1=471.2.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-6-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydro-quinoline | 0.33 mmol, 150.0 mg | BrC=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)S(=O)(=O)N1CCOCC1 | C21H25BrN2O3S
reactant | piperazine | 3.3 mmol, 283.4 mg | N1CCNCC1 | C4H10N2
reactant | N,N-dimethylglycine hydrochloride | 0.24 mmol, 34.0 mg | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 1.0 mmol, 110.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.1 mmol, 20.0 mg | [Cu]I
product | 4,4-dimethyl-6-(morpholine-4-sulfonyl)-2-(3-piperazin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline | 51.1 mg, 33.0% | CC1(CC(NC2=CC=C(C=C12)S(=O)(=O)N1CCOCC1)C1=CC(=CC=C1)N1CCNCC1)C | C25H34N4O3S
